US06194624B1
A 70 ml autoclave equipped with a magnetic stirrer was charged with 40 g of trans-, trans-, cis-1,5,9-cyclododecatriene, 50 mg of RuCl3*H2O, 400 mg of triphenylphosphine, 0.5 g of 37% strength aqueous formaldehyde solution and 100 mg of acetic acid. The reactor was purged with nitrogen and hydrogen and then brought to a hydrogen pressure of 20 bar and heated up with stirring. At 115° C., the reactor pressure decreased noticeably and the internal temperature rose quickly to 140° C. Thereafter the reactor was constantly maintained at 20 bar and 145° C. by means of hydrogen. After about 2.5 hours the reactor was cooled down and decompressed. The effluent was found by GC to contain a yield of 97% of cyclododecene and 1.8% of cyclododecane. The remainder was cyclododecadiene.

reactant | cis-1,5,9-cyclododecatriene | C/1=C/CCC=CCCC=CCC1 | C12H18
reactant | triphenylphosphine | 400 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | formaldehyde | C=O | CH2O
reactant | cyclododecane | C1CCCCCCCCCCC1 | C12H24
solvent | acetic acid | 100 mg | C(C)(=O)O | C2H4O2
product | cyclododecene | yield of 97% | C1=CCCCCCCCCCC1 | C12H22
